US07622583B2
To a mixture of 112 mg (0.244 mmol) of 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid, 70 mg (0.70 mmol) of 2-methylmorpholine and 0.174 mL (1.0 mmol) of DIEA in CH2Cl2 (2.5 mL) was added 0.19 mL 1-propanephosphonic acid cyclic anhydride (50% in ethyl acetate). After 3 h the reaction mixture was directly purified via flash column (50% EtOAc in hexane) to afford 67 mg of 4-chloro-N-[5-chloro-2-(3-methyl-morpholine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide as a white powder. MS m/z: 542.36 (M+H).

reactant | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid | 0.244 mmol, 112 mg | ClC=1C=C(C(=NC1)C(=O)O)N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H11Cl2F3N2O5S
reactant | 2-methylmorpholine | 0.70 mmol, 70 mg | CC1CNCCO1 | C5H11NO
reactant | DIEA | 1.0 mmol, 0.174 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-propanephosphonic acid cyclic anhydride | 0.19 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-[5-chloro-2-(3-methyl-morpholine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 67 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)N1C(COCC1)C)C(F)(F)F | C20H20Cl2F3N3O5S
